US08227615B2
Step a: (6-aminopyridin-3-yl)-(2-methoxyphenyl)-methanol
To a solution of (6-amino-pyridin-3-yl)-(2-methoxy-phenyl)-methanone (14 g, 61.4 mol) in CH3OH (150 mL) was added NaBH4 (3.48 g, 92.1 mmol) portion-wise at 0° C. After the addition was completed, the reaction was warmed to room temperature and stirred at room temperature for 1 hr. The solvent was removed in vacuo and water (100 mL) was added to the residue. The mixture was extracted with dichloromethane (100 mL×3). The combined organic layers were washed with saturated solution of NaHCO3 and brine, dried over Na2SO4, filtered and concentrated in vacuo to give a crude product that was used directly in the next step with no further purification.

reactant | (6-amino-pyridin-3-yl)-(2-methoxy-phenyl)-methanone | 61.4 mol, 14 g | NC1=CC=C(C=N1)C(=O)C1=C(C=CC=C1)OC | C13H12N2O2
reactant | NaBH4 | 92.1 mmol, 3.48 g | [BH4-].[Na+]
solvent | CH3OH | 150 mL | CO | CH4O
product | (6-aminopyridin-3-yl)-(2-methoxyphenyl)-methanol | NC1=CC=C(C=N1)C(O)C1=C(C=CC=C1)OC | C13H14N2O2
